US07320974B2
(R)-4-((1R,15R,17R,Z)-17-Methoxy-5-methyl-3-oxo-2,16-dioxa-bicyclo[13.3.1]nonadec-4-en-17-yl)-3-(4-methoxybenzyl)thiazolidin-2-one
Application of the method shown in Example 41, with the modification that (R)-4-((1R,4Z,8E,10Z,15R,17R)-17-methoxy-5-methyl-3-oxo-2, 16-dioxa-bicyclo[13.3.1]nonadeca-4,8,10-trien-17-yl)-3-(4-methoxybenzyl)thiazolidin-2-one is substituted for (R)-4-((1R,4Z,13R,15R)-15-methoxy-5-methyl-3-oxo-2,14-dioxa-bicyclo[11.3.1]heptadeca-4,8-dien-15-yl)-3-(4-methoxybenzyl)thiazolidin-2-one, affords the title compound.

reactant | (R)-4-((1R,4Z,8E,10Z,15R,17R)-17-methoxy-5-methyl-3-oxo-2, 16-dioxa-bicyclo[13.3.1]nonadeca-4,8,10-trien-17-yl)-3-(4-methoxybenzyl)thiazolidin-2-one | CO[C@]1(O[C@@H]2CCC\C=C/C=C/CC\C(=C/C(O[C@@H](C1)C2)=O)\C)[C@H]2N(C(SC2)=O)CC2=CC=C(C=C2)OC | C30H39NO6S
reactant | (R)-4-((1R,4Z,13R,15R)-15-methoxy-5-methyl-3-oxo-2,14-dioxa-bicyclo[11.3.1]heptadeca-4,8-dien-15-yl)-3-(4-methoxybenzyl)thiazolidin-2-one | CO[C@]1(O[C@@H]2CCCC=CCC\C(=C/C(O[C@@H](C1)C2)=O)\C)[C@H]2N(C(SC2)=O)CC2=CC=C(C=C2)OC | C28H37NO6S
product | (R)-4-((1R,15R,17R,Z)-17-Methoxy-5-methyl-3-oxo-2,16-dioxa-bicyclo[13.3.1]nonadec-4-en-17-yl)-3-(4-methoxybenzyl)thiazolidin-2-one | CO[C@]1(O[C@@H]2CCCCCCCCC\C(=C/C(O[C@@H](C1)C2)=O)\C)[C@H]2N(C(SC2)=O)CC2=CC=C(C=C2)OC | C30H43NO6S
